US06175004B1
Preparation of 2-fluoroadenosine (4)
A 2 L polyethylene bottle was equipped with a magnetic stirrer, thermometer, dry ice/acetone bath and a stream of argon gas. Anhydrous pyridine (750 mL) was added and the solution was cooled to −20° C. To this was added 70% hydrogen fluoride in pyridine (500 mL). 2,6-diaminopurine riboside (1,2-aminoadenosine, 105 g, 0.372 mol, R.I. Chemical, Orange, Calif., Reliable Biopharmaceuticals, St. Louis, Mo.) was suspended in the liquid. Tert-butylnitrite (90 mL, 0.76 mol) was added in one portion and the reaction was stirred at 9-11° C. until the reaction was complete as judged by TLC (3 h, Rf 0.20, starting material; Rf 0.40, product, ethyl acetate-methanol 4:1). Sodium bicarbonate (3 kg) was suspended with manual stirring in water (2 L) in a 20 L bucket. The reaction solution was slowly poured (to allow for evolution of carbon dioxide) into the aqueous layer with vigorous stirring. Ethyl acetate was added periodically in small portions to reduce foaming. The resulting suspension was extracted with ethyl acetate (5×1 L). The organic layers were combined and concentrated to a solid. The solid was mostly dissolved in warm methanol (300 mL). The solution was cooled in a ice water bath and the resulting solid was collected, rinsed with methanol (2×100 mL) and dried under vacuum (1 mm Hg, 25° C., 24 h) to give 76 g of product as a gold solid, mp 214-215° C. The mother liquor was concentrated to a solid and recrystallized from water (600 mL) to give in three crops an additional 18.3 g of similar quality product for a total of 90.3 g (85%). H-NMR (DMSO-d6) δ 3.4-3.8 (m, 2, 5′ and 5″-H), 3.95 (m, 1, 4′-H), 4.14 (m, 1, 3′-H), 4.53 (m, 1, 2′-H), 5.04 (t, 1, 5′-OH), 5.23 (d, 1, 3′-OH), 5.50 (d, 1, 2′-OH), 5.80 (d, 1, 1′-H), 7.89 (br s, 2, NH2), 8.37 (s, 1, 8-H).

reactant | polyethylene | 2 L | C(C[*:2])[*:1]
reactant | hydrogen fluoride | F | FH
reactant | 2,6-diaminopurine riboside | 0.372 mol, 105 g | C1=NC2=C(N1C3C(C(C(O3)CO)O)O)N=C(N=C2N)N | C10H14N6O4
reactant | Tert-butylnitrite | 0.76 mol, 90 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | Sodium bicarbonate | 3 kg | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 2 L | O | H2O
solvent | pyridine | 750 mL | N1=CC=CC=C1 | C5H5N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 2-fluoroadenosine | 76 g | FC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12FN5O4
